US04198503
(d) 7-Amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid
3-Carbamoyloxymethyl-7-p-nitrobenzyloxycarbonylamino-3-cephem-4-carboxylic acid (7.5 g.; 16.5 m. mole) was dissolved in water (100 ml) by adding 1 N sodium hydroxide solution to give a solution with a pH of 7.0. This solution was added to pre-hydrogenated 5% palladium on calcium carbonate catalyst (7.5 g.) in water (100 ml) and hydrogenation was continued for 41/2 hours. The reaction mixture was filtered and the filtrate was washed with ether and freeze dried. Thin layer chromatography of the solid residue in chloroform, acetone, acetic acid (50:50:7) revealed one spot with no starting material present. This residue was dissolved in water (25 ml) and the pH of the solution adjusted to 4.0 with 1 N hydrochloric acid resulting in the precipitation of a white solid. The mixture was cooled in the refrigerator and the white solid was collected and dried in vacuo. (1.954 g.). The filtrate was reduced to 5 ml by evaporation and a second crop of solid (0.320 g.) was obtained on cooling. Both crops were dried in vacuo and characterized as 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid. δ (TFA) 5.5 (4H, sharp s on top of AB quartet, H7, H6 and 3-CH2 -); δ (DMSO) 6.58 (2H, s, OCONH2, exchanges with D2O), 5.00 (2H, m, H7 and α-protons), 4.75 (3H, d overlapping AB quartet, H6 and 3-CH2) and 3.50 (2H, broad s, S-CH2) γ max (KBr) 1790 (β-lactam C=O), 1710, 1605 cn-1 ; λ max (H20) 265 nm (εm 7,203).

reactant | 3-Carbamoyloxymethyl-7-p-nitrobenzyloxycarbonylamino-3-cephem-4-carboxylic acid | 7.5 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O | C17H16N4O9S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
catalyst | palladium on calcium carbonate | 7.5 g | [Pd] | Pd
solvent | water | 100 ml | O | H2O
product | 7-Amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
